US06358974B1
2-Methyl-2-phenylpropylamine
To a stirred suspension of lithium aluminium hydride (4.85 g, 0.128 mol) in anhydrous diethyl ether (245 ml) at ambient temperature under argon was added a solution of α,α-dimethylphenylacetonitrile (12.4 g, 0.085 mol) in anhydrous diethyl ether (105 ml) dropwise over 0.5 hour. The resultant was heated at reflux for 3 hours, cooled to ambient temperature and treated with water (4.6 ml), 15% aqueous sodium hydroxide (4.6 ml) and water (13.8 ml) dropwise sequentially. The mixture was stirred for 1.5 hours, filtered and the filtrate dried (Na2SO4) and treated with 1N hydrogen chloride in ether (100 ml). The precipitated solid was filtered and dried to afford the title compound as the hydrochloride salt (9.4 g, 52%).

reactant | lithium aluminium hydride | 0.128 mol, 4.85 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | α,α-dimethylphenylacetonitrile | 0.085 mol, 12.4 g | CC(C#N)(C)C1=CC=CC=C1 | C10H11N
reactant | water | 4.6 ml | O | H2O
reactant | sodium hydroxide | 4.6 ml | [OH-].[Na+]
reactant | water | 13.8 ml | O | H2O
solvent | diethyl ether | 245 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 105 ml | C(C)OCC | C4H10O
product | 2-Methyl-2-phenylpropylamine | CC(CN)(C)C1=CC=CC=C1 | C10H15N
